US08278294B2
0.53 g (1.1 mmol) (R)-3-[2-(4-Methoxy-benzyl)-7-methyl-1-oxo-1,2-dihydro-isoquinolin-6-yloxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester were dissolved in 2.5 g (22 mmol) trifluoroacetic acid. After 1 h at room temperature the mixture was heated for 2 h in a microwave oven at 150° C. Then the excess trifluoroacetic acid was distilled off in vacuo and the residue was diluted with 10 ml 1 M hydrochloric acid. The aqueous phase was washed with methylene chloride twice and then it was freeze dried to give 0.11 g 7-Methyl-6-((R)-1-pyrrolidin-3-ylmethoxy)-2H-isoquinolin-1-one as the hydrochloride. Rt=0.82 min (Method B). Detected mass: 259.1 (M+H+).

reactant | (R)-3-[2-(4-Methoxy-benzyl)-7-methyl-1-oxo-1,2-dihydro-isoquinolin-6-yloxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 0.53 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C(=O)OC=1C=C2C=CN(CC2=CC1C)CC1=CC=C(C=C1)OC | C28H34N2O5
reactant | trifluoroacetic acid | 22 mmol, 2.5 g | FC(C(=O)O)(F)F | C2HF3O2
product | 7-Methyl-6-((R)-1-pyrrolidin-3-ylmethoxy)-2H-isoquinolin-1-one | 0.11 g | CC1=C(C=C2C=CNC(C2=C1)=O)OC[C@H]1CNCC1 | C15H18N2O2
